US07241761B2
(a) 5-Ethanesulfonyl-benzoxazole-2-thiol
100 mmol 1-amino-5-ethylsulfonyl-2-hydroxybenzene were dissolved in 200 ml of ethanol and 150 ml of carbon disulfide. 120 mmol of potassium hydroxide was added and the mixture refluxed over night. The solvent was evaporated, the residue treated with 1 M hydrochloric acid, extracted with ethyl acetate and dried. Evaporation gave the crude product which was recrystallized from ethyl acetate to yield the title compound as yellowish solid.

reactant | 1-amino-5-ethylsulfonyl-2-hydroxybenzene | 100 mmol | NC1=C(C=CC(=C1)S(=O)(=O)CC)O | C8H11NO3S
reactant | potassium hydroxide | 120 mmol | [OH-].[K+]
reactant | carbon disulfide | 150 ml | C(=S)=S | CS2
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 5-Ethanesulfonyl-benzoxazole-2-thiol | C(C)S(=O)(=O)C=1C=CC2=C(N=C(O2)S)C1 | C9H9NO3S2
